US07105524B2
Preparation of 2-(3,4,4-trifluoro-but-3-enylsulfonyl)-thiazolo[4,5-c]pyridine
2-(3,4,4-trifluoro-but-3-enylsulfinyl)-thiazolo[4,5-c]pyridine (0.1 g) was dissolved in methylene chloride (5 ml), m-chloroperbenzoic acid (0.07 g) was added and the mixture was stirred at room temperature for 2 hours. The mixture was washed with 1% aqueous sodium metabisulfite, aqueous sodium bicarbonate, saturated aqueous sodium chloride, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel using methylene chloride:ethyl acetate (85:15) to give the product as a brown semi-solid (0.05 g).

reactant | 2-(3,4,4-trifluoro-but-3-enylsulfinyl)-thiazolo[4,5-c]pyridine | 0.1 g | FC(CCS(=O)C=1SC2=C(C=NC=C2)N1)=C(F)F | C10H7F3N2OS2
reactant | m-chloroperbenzoic acid | 0.07 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4,4-trifluoro-but-3-enylsulfonyl)-thiazolo[4,5-c]pyridine | 0.05 g | FC(CCS(=O)(=O)C=1SC2=C(C=NC=C2)N1)=C(F)F | C10H7F3N2O2S2
